US05504232
Dimethylbis (5,6-dimethoxyindenyl) silane (5)
23.6 ml (59 mmol) of a 2.5M butyllithium solution in hexane were added at room temperature to a solution of 10.4 g (59 mmol) of 5,6-dimethoxyindene (prepared by the method of Eberson et al., Acta Chem. Scand. B 30 (1976) 527) in 150 ml of THF, and the mixture was stirred at room temperature for 2 hours and added dropwise to a solution of 3.6 ml (29.5 mmol) of dimethyldichlorosilane in 20 ml of THF. The mixture was stirred overnight, poured into ice water and extracted with ether. The extracts were dried using Na2SO4, and the solvent was stripped off. The residue was stirred with diethyl ether, 2.2 g (18%) of the ligand system crystallizing.

reactant | butyllithium | 2.5M | C(CCC)[Li]
reactant | 5,6-dimethoxyindene | 59 mmol, 10.4 g | COC=1C=C2C=CCC2=CC1OC | C11H12O2
reactant | dimethyldichlorosilane | 29.5 mmol, 3.6 ml | C[Si](Cl)(Cl)C | C2H6Cl2Si
solvent | hexane | CCCCCC | C6H14
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Dimethylbis (5,6-dimethoxyindenyl) silane | C[Si](C1C=CC2=CC(=C(C=C12)OC)OC)(C1C=CC2=CC(=C(C=C12)OC)OC)C | C24H28O4Si
